US06777557B2
2-benzyl-1-(2-oxo-2-phenylethyl)pyridinium bromide
Prepared by reacting 2-benzylpyridine with 2-bromo-1-phenyl-1-ethanone according to known procedures:

reactant | 2-benzylpyridine | C(C1=CC=CC=C1)C1=NC=CC=C1 | C12H11N
reactant | 2-bromo-1-phenyl-1-ethanone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | 2-benzyl-1-(2-oxo-2-phenylethyl)pyridinium bromide | [Br-].C(C1=CC=CC=C1)C1=[N+](C=CC=C1)CC(C1=CC=CC=C1)=O | InChI=1S/C20H18NO.BrH/c22-20(18-11-5-2-6-12-18)16-21-14-8-7-13-19(21)15-17-9-3-1-4-10-17;/h1-14H,15-16H2;1H/q+1;/p-1
